US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-phenylimidazolidin-4-one
The compound was synthesized starting from 5-aminobenzimidazole (0.75 g, 5.61 mmol), benzaldehyde (0.52 mL, 5.1 mmol), TMSCN (0.64 mL, 5.1 mmol), conc. aqueous HCl (10 mL), triethyl orthoformate (13 mL, excess), NaBH4 (0.227 g, 6 mmol) as described in method 4. Yield: 0.088 g (6.2%); MS m/z 279.3 (M+H)+; 1H NMR (400 MHz, DMSO-D6): δ 4.78-4.80 (m, H); 5.04-5.05 (m, H); 5.17-5.19 (m, H); 6.23 (d, H, J=2.1 Hz); 6.79 (dd, H, 3J=9.1 Hz, 4J=2.1 Hz); 7.24-7.27 (m, H); 7.30-7.36 (m, 4H); 7.59 (d, H, J=9.1 Hz); 8.89 (s, H); 9.16 (s, H), HPLC (λ=214 nm), [B]: rt 6.43 min (97.8%).

reactant | 5-aminobenzimidazole | 5.61 mmol, 0.75 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | benzaldehyde | 5.1 mmol, 0.52 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | TMSCN | 5.1 mmol, 0.64 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | triethyl orthoformate | 13 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | NaBH4 | 6 mmol, 0.227 g | [BH4-].[Na+]
solvent | HCl | 10 mL | Cl | ClH
product | 1-(1H-benzo[d]imidazol-5-yl)-5-phenylimidazolidin-4-one | N1C=NC2=C1C=CC(=C2)N2CNC(C2C2=CC=CC=C2)=O | C16H14N4O
